US06063782
1-(3-Chloro-2-propenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound (cis/trans=1/1) was prepared as a pale yellow powder in 31.4% yield in a similar procedure to that described in Example 41 by using 7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine and 1,3-dichloropropene (a mixture of cis and trans isomers).

reactant | 7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | FC1=CC=C(COC=2N=NC=C3C2NC(=C3C)C)C=C1 | C15H14FN3O
reactant | 1,3-dichloropropene | ClC=CCCl | C3H4Cl2
product | 1-(3-Chloro-2-propenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 31.4% yield | ClC=CCN1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C)C | C18H17ClFN3O
